US07589095B2
To a solution of 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile (153 mg) in methanol (2 ml) was added cyclopropylamine (140 μL), acetic acid (0.12 mL), and followed by sodium triacetoxyborohydride (210 mg). The mixture was stirred at room temperature for 24 hours, then purified by preparative-HPLC. 4-(3-cyclopropylamino-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile TFA salt was isolated as a white solid (70 mg).

reactant | 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 153 mg | O=CCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H10F3N3O
reactant | cyclopropylamine | 140 μL | C1(CC1)N | C3H7N
reactant | acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 210 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | 2 ml | CO | CH4O
product | 4-(3-cyclopropylamino-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile TFA salt | OC(=O)C(F)(F)F.C1(CC1)NCCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | InChI=1S/C18H17F3N4.C2HF3O2/c19-18(20,21)13-4-1-3-12(9-13)16-10-15(24-17(11-22)25-16)5-2-8-23-14-6-7-14;3-2(4,5)1(6)7/h1,3-4,9-10,14,23H,2,5-8H2;(H,6,7)
